* File: Mux41.pex.netlist.pex
* Created: Mon Apr 15 16:03:44 2019
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MUX41_X0_7 6 12 16 18
r0 54 56 0.0475
r1 41 62 0.0338756
r2 41 42 1.705
r3 40 62 0.0338756
r4 39 59 0.0517569
r5 39 40 1.0625
r6 37 56 0.0046983
r7 37 38 0.77
r8 32 38 0.0458784
r9 32 34 0.209231
r10 31 54 0.0046983
r11 30 52 0.0517569
r12 30 31 0.11
r13 29 52 0.0517569
r14 28 29 0.9075
r15 27 48 0.0517569
r16 26 62 0.00880368
r17 26 27 0.35
r18 25 44 0.0234599
r19 24 42 0.0446983
r20 24 25 0.6525
r21 22 28 0.0446983
r22 22 23 0.625
r23 21 23 0.0446983
r24 20 44 0.0517569
r25 20 21 1.5675
r26 19 59 15.61
r27 19 52 11.07
r28 19 48 11.07
r29 19 44 11.07
r30 19 34 3.8825
r31 18 19 0.921778
r32 16 19 1.89833
r33 14 19 8.27089
r34 14 15 109.615
r35 10 15 5.58729
r36 10 12 201.923
r37 8 19 8.27089
r38 8 9 86.1538
r39 4 9 5.58729
r40 4 6 174.615
.ends

.subckt PM_MUX41_X1_7 6 12 16 18
r0 54 56 0.0475
r1 41 62 0.0338756
r2 41 42 1.705
r3 40 62 0.0338756
r4 39 59 0.0517569
r5 39 40 1.0625
r6 37 56 0.0046983
r7 37 38 0.77
r8 32 38 0.0458784
r9 32 34 0.209231
r10 31 54 0.0046983
r11 30 52 0.0517569
r12 30 31 0.11
r13 29 52 0.0517569
r14 28 29 0.9075
r15 27 48 0.0517569
r16 26 62 0.00880368
r17 26 27 0.35
r18 25 44 0.0234599
r19 24 42 0.0446983
r20 24 25 0.6525
r21 22 28 0.0446983
r22 22 23 0.625
r23 21 23 0.0446983
r24 20 44 0.0517569
r25 20 21 1.5675
r26 19 59 15.61
r27 19 52 11.07
r28 19 48 11.07
r29 19 44 11.07
r30 19 34 3.8825
r31 18 19 0.921778
r32 16 19 1.89833
r33 14 19 8.27089
r34 14 15 109.615
r35 10 15 5.58729
r36 10 12 201.923
r37 8 19 8.27089
r38 8 9 86.1538
r39 4 9 5.58729
r40 4 6 174.615
.ends

.subckt PM_MUX41_X2_7 6 12 16 18
r0 54 56 0.0475
r1 41 62 0.0338756
r2 41 42 1.705
r3 40 62 0.0338756
r4 39 59 0.0517569
r5 39 40 1.0625
r6 37 56 0.0046983
r7 37 38 0.77
r8 32 38 0.0458784
r9 32 34 0.209231
r10 31 54 0.0046983
r11 30 52 0.0517569
r12 30 31 0.11
r13 29 52 0.0517569
r14 28 29 0.9075
r15 27 48 0.0517569
r16 26 62 0.00880368
r17 26 27 0.35
r18 25 44 0.0234599
r19 24 42 0.0446983
r20 24 25 0.6525
r21 22 28 0.0446983
r22 22 23 0.625
r23 21 23 0.0446983
r24 20 44 0.0517569
r25 20 21 1.5675
r26 19 59 15.61
r27 19 52 11.07
r28 19 48 11.07
r29 19 44 11.07
r30 19 34 3.8825
r31 18 19 0.921778
r32 16 19 1.89833
r33 14 19 8.27089
r34 14 15 109.615
r35 10 15 5.58729
r36 10 12 201.923
r37 8 19 8.27089
r38 8 9 86.1538
r39 4 9 5.58729
r40 4 6 174.615
.ends

.subckt PM_MUX41_VDD 3 22 24 45 96
r0 100 104 0.00419427
r1 99 102 0.102649
r2 98 104 0.0648174
r3 94 103 0.00419427
r4 94 96 0.204267
r5 93 104 0.00419427
r6 92 103 0.0648174
r7 90 103 0.00419427
r8 55 102 0.2125
r9 49 55 0.0469158
r10 49 51 0.104615
r11 47 99 0.0242667
r12 47 100 0.2072
r13 45 57 0.921778
r14 34 98 0.2125
r15 28 34 0.0469158
r16 28 30 0.104615
r17 26 93 0.0242667
r18 26 96 0.00293333
r19 24 36 0.921778
r20 22 57 0.108444
r21 22 51 3.8825
r22 22 47 0.325208
r23 22 36 0.108444
r24 22 30 3.8825
r25 22 26 0.325208
r26 15 22 0.108444
r27 13 92 0.2125
r28 9 22 3.8825
r29 7 13 0.0469158
r30 7 9 0.104615
r31 5 90 0.0242667
r32 5 22 0.325208
r33 3 15 0.921778
.ends

.subckt PM_MUX41_GROUND 1 21 22 41 97
r0 100 104 0.00419427
r1 99 102 0.102649
r2 98 104 0.0648174
r3 94 103 0.00419427
r4 93 104 0.00419427
r5 93 97 0.0224
r6 92 103 0.0648174
r7 90 103 0.00419427
r8 52 102 0.28
r9 50 52 0.0517569
r10 46 99 0.0258667
r11 46 100 0.2056
r12 32 98 0.28
r13 30 32 0.0517569
r14 26 97 0.00346667
r15 26 94 0.2056
r16 22 41 2.12167
r17 22 50 15.61
r18 22 46 0.323542
r19 22 30 15.61
r20 22 26 0.323542
r21 21 22 2.12167
r22 12 92 0.28
r23 10 12 0.0517569
r24 10 22 15.61
r25 6 90 0.0258667
r26 6 22 0.323542
r27 1 22 2.12167
.ends

.subckt PM_MUX41_IN0 1 3 71
r0 71 74 0.68
r1 66 74 0.0477743
r2 66 67 1.296
r3 58 60 0.0677543
r4 44 67 0.0477743
r5 40 43 0.0517569
r6 34 36 0.0625
r7 30 32 0.0725
r8 26 28 0.0775
r9 22 24 0.1375
r10 21 32 0.0046983
r11 21 43 0.4175
r12 15 38 0.0517569
r13 15 17 0.209231
r14 13 36 0.0046983
r15 13 38 0.2425
r16 12 24 0.0046983
r17 11 58 0.0717543
r18 11 12 0.115
r19 10 34 0.0046983
r20 9 28 0.0046983
r21 9 10 1.8775
r22 7 30 0.0046983
r23 7 60 2.72
r24 6 26 0.0046983
r25 5 22 0.0046983
r26 5 6 0.705
r27 4 58 0.68
r28 4 46 0.108444
r29 4 44 0.68
r30 4 40 15.61
r31 4 17 3.8825
r32 3 46 0.916356
r33 1 4 2.1105
.ends

.subckt PM_MUX41_IN1 1 3 67
r0 67 70 0.68
r1 62 70 0.0477743
r2 62 63 1.884
r3 39 63 0.0477743
r4 27 28 2.312
r5 25 26 0.642
r6 23 28 0.0446983
r7 23 24 0.14
r8 21 24 0.0446983
r9 21 22 0.258
r10 17 20 0.0517569
r11 14 36 0.0559551
r12 14 15 0.18
r13 13 15 0.0446983
r14 13 20 2.255
r15 7 31 0.0393755
r16 7 9 0.141538
r17 6 25 0.0477743
r18 6 36 0.68
r19 6 17 15.61
r20 5 27 0.0477743
r21 5 26 0.0477743
r22 5 39 0.68
r23 4 22 0.0477743
r24 4 31 0.68
r25 4 9 3.8825
r26 3 4 0.9272
r27 1 6 1.9095
.ends

.subckt PM_MUX41_5 1 3 52 54
r0 123 127 0.25
r1 120 123 0.0446983
r2 120 121 0.554
r3 118 121 0.0446983
r4 118 119 1.228
r5 109 111 0.0677543
r6 95 127 0.0480501
r7 91 94 0.0517569
r8 85 87 0.0625
r9 81 83 0.0725
r10 77 79 0.0775
r11 73 75 0.1375
r12 72 83 0.0046983
r13 72 94 0.4175
r14 66 89 0.0517569
r15 66 68 0.209231
r16 64 87 0.0046983
r17 64 89 0.2425
r18 63 75 0.0046983
r19 62 109 0.0717543
r20 62 63 0.115
r21 61 85 0.0046983
r22 60 79 0.0046983
r23 60 61 1.8775
r24 58 81 0.0046983
r25 58 111 2.72
r26 57 77 0.0046983
r27 56 73 0.0046983
r28 56 57 0.705
r29 55 109 0.68
r30 55 97 0.108444
r31 55 95 0.68
r32 55 91 15.61
r33 55 68 3.8825
r34 54 97 0.916356
r35 52 55 2.1105
r36 45 47 0.0687543
r37 32 119 0.0474984
r38 28 31 0.0517569
r39 22 24 0.125
r40 18 20 0.1275
r41 17 24 0.0046983
r42 17 31 3.81
r43 11 26 0.0517569
r44 11 13 0.209231
r45 9 20 0.0046983
r46 9 26 1.4825
r47 7 22 0.0046983
r48 7 47 0.12
r49 6 18 0.0046983
r50 5 45 0.0707543
r51 5 6 0.825
r52 4 45 0.68
r53 4 32 0.68
r54 4 28 15.61
r55 4 13 3.8825
r56 3 4 1.03564
r57 1 4 2.13283
.ends

.subckt PM_MUX41_OUT1 1 3 58
r0 58 61 0.68
r1 54 61 0.0477743
r2 53 54 0.768
r3 45 47 0.0687543
r4 32 53 0.0477743
r5 28 31 0.0517569
r6 22 24 0.125
r7 18 20 0.1275
r8 17 24 0.0046983
r9 17 31 3.81
r10 11 26 0.0517569
r11 11 13 0.209231
r12 9 20 0.0046983
r13 9 26 1.4825
r14 7 22 0.0046983
r15 7 47 0.12
r16 6 18 0.0046983
r17 5 45 0.0707543
r18 5 6 0.825
r19 4 45 0.68
r20 4 32 0.68
r21 4 28 15.61
r22 4 13 3.8825
r23 3 4 1.03564
r24 1 4 2.13283
.ends

.subckt PM_MUX41_S1 4 10 18 22 57
r0 57 60 0.68
r1 53 60 0.0477743
r2 52 53 1.768
r3 35 52 0.0477743
r4 34 43 0.68
r5 34 40 8.27089
r6 34 43 11.07
r7 34 35 0.68
r8 30 31 146.154
r9 29 33 4.23445
r10 28 30 5.58729
r11 28 29 33.0769
r12 26 31 5.58729
r13 26 27 36.5385
r14 25 33 1.10046
r15 24 34 8.27089
r16 24 25 230.385
r17 20 32 4.23445
r18 20 22 64.2308
r19 16 27 5.58729
r20 16 18 90
r21 14 32 4.23445
r22 14 40 490.385
r23 12 32 1.10046
r24 12 13 103.077
r25 8 13 5.58729
r26 8 10 64.2308
r27 6 33 4.23445
r28 6 7 146.538
r29 2 7 5.58729
r30 2 4 246.154
.ends

.subckt PM_MUX41_8 1 3 61 63
r0 118 119 0.394
r1 117 119 0.0446983
r2 116 117 0.606
r3 114 116 0.0446983
r4 114 122 0.662
r5 105 107 0.0687543
r6 92 118 0.0480501
r7 88 91 0.0517569
r8 82 84 0.125
r9 78 80 0.1275
r10 77 84 0.0046983
r11 77 91 3.81
r12 71 86 0.0517569
r13 71 73 0.209231
r14 69 80 0.0046983
r15 69 86 1.4825
r16 67 82 0.0046983
r17 67 107 0.12
r18 66 78 0.0046983
r19 65 105 0.0707543
r20 65 66 0.825
r21 64 105 0.68
r22 64 92 0.68
r23 64 88 15.61
r24 64 73 3.8825
r25 63 64 1.03564
r26 61 64 2.13283
r27 39 122 0.0477743
r28 27 28 2.312
r29 25 26 0.642
r30 23 28 0.0446983
r31 23 24 0.14
r32 21 24 0.0446983
r33 21 22 0.258
r34 17 20 0.0517569
r35 14 36 0.0559551
r36 14 15 0.18
r37 13 15 0.0446983
r38 13 20 2.255
r39 7 31 0.0393755
r40 7 9 0.141538
r41 6 25 0.0477743
r42 6 36 0.68
r43 6 17 15.61
r44 5 27 0.0477743
r45 5 26 0.0477743
r46 5 39 0.68
r47 4 22 0.0477743
r48 4 31 0.68
r49 4 9 3.8825
r50 3 4 0.9272
r51 1 6 1.9095
.ends

.subckt PM_MUX41_IN3 1 3 67
r0 67 70 0.68
r1 62 70 0.0477743
r2 62 63 0.894
r3 39 63 0.0477743
r4 27 28 2.312
r5 25 26 0.642
r6 23 28 0.0446983
r7 23 24 0.14
r8 21 24 0.0446983
r9 21 22 0.258
r10 17 20 0.0517569
r11 14 36 0.0559551
r12 14 15 0.18
r13 13 15 0.0446983
r14 13 20 2.255
r15 7 31 0.0393755
r16 7 9 0.141538
r17 6 25 0.0477743
r18 6 36 0.68
r19 6 17 15.61
r20 5 27 0.0477743
r21 5 26 0.0477743
r22 5 39 0.68
r23 4 22 0.0477743
r24 4 31 0.68
r25 4 9 3.8825
r26 3 4 0.9272
r27 1 6 1.9095
.ends

.subckt PM_MUX41_IN2 1 3 78
r0 78 81 0.68
r1 73 81 0.0477743
r2 72 73 0.954
r3 70 72 0.0446983
r4 70 71 0.326
r5 69 71 0.0446983
r6 68 69 0.44
r7 66 68 0.0446983
r8 66 76 0.304
r9 58 60 0.0677543
r10 44 76 0.0474984
r11 40 43 0.0517569
r12 34 36 0.0625
r13 30 32 0.0725
r14 26 28 0.0775
r15 22 24 0.1375
r16 21 32 0.0046983
r17 21 43 0.4175
r18 15 38 0.0517569
r19 15 17 0.209231
r20 13 36 0.0046983
r21 13 38 0.2425
r22 12 24 0.0046983
r23 11 58 0.0717543
r24 11 12 0.115
r25 10 34 0.0046983
r26 9 28 0.0046983
r27 9 10 1.8775
r28 7 30 0.0046983
r29 7 60 2.72
r30 6 26 0.0046983
r31 5 22 0.0046983
r32 5 6 0.705
r33 4 58 0.68
r34 4 46 0.108444
r35 4 44 0.68
r36 4 40 15.61
r37 4 17 3.8825
r38 3 46 0.916356
r39 1 4 2.1105
.ends

.subckt PM_MUX41_S0 4 10 18 22 54 60 68 72 116
r0 116 119 0.68
r1 109 110 2.136
r2 108 119 0.0477743
r3 107 109 0.0446983
r4 107 108 2.078
r5 105 119 0.0477743
r6 105 106 1.326
r7 103 106 0.0446983
r8 103 104 2.136
r9 85 110 0.0477743
r10 84 93 0.68
r11 84 90 8.27089
r12 84 93 11.07
r13 84 85 0.68
r14 80 81 146.154
r15 79 83 4.23445
r16 78 80 5.58729
r17 78 79 33.0769
r18 76 81 5.58729
r19 76 77 36.5385
r20 75 83 1.10046
r21 74 84 8.27089
r22 74 75 230.385
r23 70 82 4.23445
r24 70 72 64.2308
r25 66 77 5.58729
r26 66 68 90
r27 64 82 4.23445
r28 64 90 490.385
r29 62 82 1.10046
r30 62 63 103.077
r31 58 63 5.58729
r32 58 60 64.2308
r33 56 83 4.23445
r34 56 57 146.538
r35 52 57 5.58729
r36 52 54 246.154
r37 35 104 0.0477743
r38 34 43 0.68
r39 34 40 8.27089
r40 34 43 11.07
r41 34 35 0.68
r42 30 31 146.154
r43 29 33 4.23445
r44 28 30 5.58729
r45 28 29 33.0769
r46 26 31 5.58729
r47 26 27 36.5385
r48 25 33 1.10046
r49 24 34 8.27089
r50 24 25 230.385
r51 20 32 4.23445
r52 20 22 64.2308
r53 16 27 5.58729
r54 16 18 90
r55 14 32 4.23445
r56 14 40 490.385
r57 12 32 1.10046
r58 12 13 103.077
r59 8 13 5.58729
r60 8 10 64.2308
r61 6 33 4.23445
r62 6 7 146.538
r63 2 7 5.58729
r64 2 4 246.154
.ends

